US09085540B2
Under an argon atmosphere, to a mixture of tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (300 mg), pyridin-4-ylboronic acid (196 mg), and N-methylpyrrolidone (6 mL) were added tetrakistriphenylphosphine palladium (0) (79 mg) and a 2 M aqueous sodium carbonate solution (797 μL), followed by stirring at 100° C. for 4 hours. After leaving to be cooled, ethyl acetate and water were added thereto, followed by stirring, and then the insoluble matter was separated by filtration. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-150:10:1) to obtain tert-butyl (3R)-3-{[5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-3-(pyridin-4-yl)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate (222 mg) as a yellow solid.

reactant | tert-butyl (3R)-3-{[3-bromo-5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 300 mg | BrC=1C(=NC(=C(N1)C(N)=O)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C30H44BrN9O3
reactant | pyridin-4-ylboronic acid | 196 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | N-methylpyrrolidone | 6 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium carbonate | 2 M, 797 μL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R)-3-{[5-carbamoyl-6-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)-3-(pyridin-4-yl)pyrazin-2-yl]amino}pyrrolidine-1-carboxylate | 222 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C35H48N10O3
